US08003656B2
B. Ethyl 5-amino-1-methyl-1H-imidazole-4-carboxylate
A mixture of ethyl 3-nitriloalaninate (26.7 g, 208 mmol) and triethyl orthoformate (34.6 mL, 208 mmol) in 340 mL of acetonitrile is heated to 90° C. and stirred for 70 min. After cooling to RT, methylamine (25.9 mL of a 33 wt % solution in EtOH, 208 mmol) is added, followed by 20 h of stirring at RT. The reaction mixture is then concentrated in vacuo and dissolved in approx. 200 mL of 1N HCl. The aqueous solution is washed with CH2Cl2 (3×100 mL), basified to pH=9-10 with solid NaHCO3, and extracted with CH2Cl2 (5×100 mL). The combined CH2Cl2 extracts are dried (Na2SO4), filtered, and concentrated to give a brown solid. The solid is slurried in EtOAc, filtered, and washed with Et2O to give the title compound as an off-white solid. 1H NMR (400 MHz, CDCl3) δ 7.03 (1H, s), 4.88 (2H, bs), 4.33 (2H, q, J 7.2), 3.45 (3H, s), 1.37 (3H, t, J 7.2).

reactant | ethyl 3-nitriloalaninate | 208 mmol, 26.7 g | N#C[C@H](N)C(=O)OCC | C5H8N2O2
reactant | triethyl orthoformate | 208 mmol, 34.6 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | methylamine | CN | CH5N
reactant | acetonitrile | 340 mL | C(C)#N | C2H3N
solvent | EtOH | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 5-amino-1-methyl-1H-imidazole-4-carboxylate | NC1=C(N=CN1C)C(=O)OCC | C7H11N3O2
